US04238494
A solution of 2-methylthio-3-nitropyrrole (2.5g, 0.016 mol) in glacial acetic acid (70 ml) and hydrogen peroxide (2 ml, 0.017 mol, 100 vol) was heated at 60° for 41/2 hours. The solvent was removed in vacuo (after first checking that no peroxide remained), and the residue was recrystallised from propan-2-ol to give 2-methylsulphinyl-3-nitropyrrole (2.3g, 85% m.p. 162-164°.

reactant | 2-methylthio-3-nitropyrrole | 0.016 mol, 2.5g | CSC=1NC=CC1[N+](=O)[O-] | C5H6N2O2S
reactant | hydrogen peroxide | 0.017 mol, 2 ml | OO | H2O2
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 2-methylsulphinyl-3-nitropyrrole | CS(=O)C=1NC=CC1[N+](=O)[O-] | C5H6N2O3S
